US08729061B2
(2S,3S)-3-Amino-N-cyclopropyl-2-hydroxy-5-methylhexanamide dihydrochloride
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, starting with (S)-2-amino-4-methylpentan-1-ol in the first step (A1).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | (S)-2-amino-4-methylpentan-1-ol | N[C@H](CO)CC(C)C | C6H15NO
product | (2S,3S)-3-Amino-N-cyclopropyl-2-hydroxy-5-methylhexanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC(C)C | InChI=1S/C10H20N2O2.2ClH/c1-6(2)5-8(11)9(13)10(14)12-7-3-4-7;;/h6-9,13H,3-5,11H2,1-2H3,(H,12,14);2*1H/t8-,9-;;/m0../s1
